US05047540
(134) Preparation of 5-hexadecyloxymethyl-2-phenyl-1,3-dioxane n2
A suspension of 7.769 g (40 mM) of 5-hydroxymethyl-2-phenyl-1,3-dioxane n1 and 2.08 g (52 mM) of 60% sodium hydride in oil in 150 ml of anhydrous benzene is heated at 50° C. for 1 hour then a solution of 17.28 g (54 mM) of n-hexadecyl methanesulfonate in 50 ml of anhydrous benzene is added. The reaction mixture is heated under refluxing for 7 hours. The product is isolated by ethyl acetate extraction. The ethyl acetate layer is washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated. Crystallization of the residue from n-pentane-methanol affords 16.203 g (97% yield) of the titled compound n2.

reactant | 5-hydroxymethyl-2-phenyl-1,3-dioxane | 40 mM, 7.769 g | OCC1COC(OC1)C1=CC=CC=C1 | C11H14O3
reactant | sodium hydride | 52 mM, 2.08 g | [H-].[Na+]
reactant | n-hexadecyl methanesulfonate | 54 mM, 17.28 g | CS(=O)(=O)OCCCCCCCCCCCCCCCC | C17H36O3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 5-hexadecyloxymethyl-2-phenyl-1,3-dioxane | 16.203 g, 97% yield | C(CCCCCCCCCCCCCCC)OCC1COC(OC1)C1=CC=CC=C1 | C27H46O3
